US05262540
A solution of ethyl 3-[2-(4,5-diphenyl-2oxazolyl)-ethyl]phenyl-2-propenoate (1.02 g, 2.4 mmol) in ethyl acetate (50 mL) was hydrogenated over 10% palladium on charcoal (0.06 g) at 35 psi. After 27 hours, the mixture was filtered, concentrated and the residue subjected to chromatography on a column of silica gel using a mixture of ethyl acetate and hexanes (9:1) as eluent. Elution gave ethyl 3-[2-(4,5-diphenyl-2-oxazolyl)ethyl]benzene propanoate (0.92 g, 90%) as an oil.

reactant | ethyl 3-[2-(4,5-diphenyl-2oxazolyl)-ethyl]phenyl-2-propenoate | 2.4 mmol, 1.02 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC=1C=C(C=CC1)C(C(=O)OCC)=C | C28H25NO3
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.06 g | [Pd] | Pd
product | ethyl 3-[2-(4,5-diphenyl-2-oxazolyl)ethyl]benzene propanoate | 0.92 g, 90% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC=1C=C(C=CC1)CCC(=O)OCC | C28H27NO3
